US09238644B2
(a) tert-Butyl 3-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-yl)amino)-1H-pyrazol-1-yl)azetidine-1-carboxylate (A18)
A suspension of 1-(2-(2-(2,5-dichloropyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide A14 (0.100 g, 0.297 mmol), Cs2CO3 (0.291 g, 0.892 mmol) and tert-butyl 3-(4-amino-1H-pyrazol-1-yl)azetidine-1-carboxylate (0.142 g, 0.595 mmol) in dioxane (3 mL) was sonicated for 10 minutes. Xantphos (6.9 mg, 12 μmol) and Pd(II) acetate (1.3 mg, 5.9 μmol) were added to the suspension and the mixture was irradiated in the microwave for 20 minutes at 120° C. The resulting mixture was adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, 24 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C. then 0-40% MeOH in EtOAc) to give the title compound A18 as a yellow oil (110 mg, 69%). LCMS-A: rt 6.349 min; m/z 538.3 [M+H]+.

reactant | 1-(2-(2-(2,5-dichloropyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N)Cl | C16H15Cl2N3O
reactant | Cs2CO3 | 0.892 mmol, 0.291 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl 3-(4-amino-1H-pyrazol-1-yl)azetidine-1-carboxylate | 0.595 mmol, 0.142 g | NC=1C=NN(C1)C1CN(C1)C(=O)OC(C)(C)C | C11H18N4O2
reactant | Xantphos | 12 μmol, 6.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 3-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-yl)amino)-1H-pyrazol-1-yl)azetidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2Cl)NC=2C=NN(C2)C2CN(C2)C(=O)OC(C)(C)C)C=CC=C1 | C27H32ClN7O3
